US05677305
2-Nitro-5-(4-oxo-4H-pyridin-1-yl)-aniline
First, 8.628 g of 5-chloro-2-nitroaniline, 7.161 g of 4-hydroxypyridine, and 4.892 g of powdered potassium hydroxide were added to 60 ml of dry dimethylsulfoxide The mixture thus obtained was stirred at 130° C. for 3 hours in a nitrogen atmosphere. Then, 200 ml of ice water was added to the reaction mixture and neutralized with 4N hydrochloric acid. The resultant solution was stirred for 30 minutes, giving a precipitate. The precipitate was filtered and washed with water. The precipitate was subjected to silica gel column chromatography, and fractions eluted with 20% methanol in methylene chloride were collected. The collected fractions were combined and evaporated. The residue was recrystallized in methanol to give 11.868 g of yellowish orange crystals of 2-nitro-5-(4-oxo-4H-pyridin-1-yl)-aniline.

reactant | 5-chloro-2-nitroaniline | 8.628 g | ClC=1C=CC(=C(N)C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | 4-hydroxypyridine | 7.161 g | OC1=CC=NC=C1 | C5H5NO
reactant | potassium hydroxide | 4.892 g | [OH-].[K+]
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | dimethylsulfoxide | 60 ml | CS(=O)C | C2H6OS
product | 2-Nitro-5-(4-oxo-4H-pyridin-1-yl)-aniline | 11.868 g | [N+](=O)([O-])C1=C(N)C=C(C=C1)N1C=CC(C=C1)=O | C11H9N3O3
